US05556861
1-Benzhydryl-3-(methylamino)azetidine was prepared under the conditions of Example 9, but starting with 50 g of 1-benzhydryl-3-(methanesulphonyloxy)-azetidine and 48.9 g of methylamine in 250 cm3 of methanol. 27 g of 1-benzhydryl-3-(methylamino)azetidine are obtained in the form of a colorless solid, melting point 75° C.

reactant | 1-benzhydryl-3-(methanesulphonyloxy)-azetidine | 50 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OS(=O)(=O)C | C17H19NO3S
reactant | methylamine | 48.9 g | CN | CH5N
solvent | methanol | 250 cm3 | CO | CH4O
product | 1-benzhydryl-3-(methylamino)azetidine | 27 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NC | C17H20N2
